US06514964B1
Step E: 2-[3-({4-[((tert-butoxy)-N-{[carbonylamino]iminomethyl}carbonylamino) methyl]phenyl}methyl)-1H,2H,4H,5H-benzo[d]azepinyl]acetic acid
To a stirring solution Methyl 2-[3-({4-[((tert-butoxy)-N-{[(tert-butoxy)carbonylamino]iminomethyl}carbonylamino)methyl]phenyl}methyl)-1H,2H,4H,5H-benzo[d]azepinyl]acetate in methanol (0.1 M) was added 1N NaOH (3 eq). After 18 hrs, the reaction was neutralized with 10% HCl, concentrated by rotary evaporation and purified by recrystalization from 2% MeOH/CH2Cl2. EI-MS m/z 466.

reactant | Methyl 2-[3-({4-[((tert-butoxy)-N-{[(tert-butoxy)carbonylamino]iminomethyl}carbonylamino)methyl]phenyl}methyl)-1H,2H,4H,5H-benzo[d]azepinyl]acetate | C(C)(C)(C)ON(C(=O)C=NNC(=O)OC(C)(C)C)CC1=CC=C(C=C1)CN1CC(C2=C(CC1)C=CC=C2)CC(=O)OC | C32H44N4O6
reactant | NaOH | 1N, 3 eq | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | methanol | 0.1 M | CO | CH4O
product | 2-[3-({4-[((tert-butoxy)-N-{[carbonylamino]iminomethyl}carbonylamino) methyl]phenyl}methyl)-1H,2H,4H,5H-benzo[d]azepinyl]acetic acid | C(C)(C)(C)OC(=O)NN=CC(=O)NCC1=CC=C(C=C1)CN1CC(C2=C(CC1)C=CC=C2)CC(=O)O | C27H34N4O5
